US05025007
Step A: Preparation of Dimethyl 2-thioanisylterepthalate
4-Bromothioanisole (7.1 g) was dissolved in tetrahydrofuran (23 ml). To this solution at -78° C. under nitrogen was added over a ten minute period 1.7M tBuLi (48 ml). After 45 minutes at room temperature, 1M ZnCl2 (41 ml) was added dropwise over a ten minute period. After one half hour at room temperature, bis(triphenylphosphine)nickel(II) chloride (1.4 g) was added followed by dimethyl-2-bromoterepthalate (4.67 g) in tetrahydrofuran (47 ml). The reaction mixture was stirred at room temperature for 45 minutes. The THF was removed under reduced pressure. The residue was treated with ethyl acetate and 1N HCl and the layers separated. The organic phase was washed with water, brine, dried over magnesium sulfate and evaporated gave the crude product. Chromatography on silica gel using 15% ethyl acetate/hexanes gave the desired product (3.92 g).

reactant | 4-Bromothioanisole | 7.1 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | tBuLi | 1.7M, 48 ml | [Li]C(C)(C)C
reactant | dimethyl-2-bromoterepthalate | 4.67 g | COC(C1=C(C=C(C(=O)OC)C=C1)Br)=O | C10H9BrO4
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 47 ml | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 1M, 41 ml | [Cl-].[Cl-].[Zn+2]
catalyst | bis(triphenylphosphine)nickel(II) chloride | 1.4 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Dimethyl 2-thioanisylterepthalate | 3.92 g | CC1=C(C=C(C=C1)SC)C1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C18H18O4S
